### PR TITLE
[Merged by Bors] - feat: port Algebra.Hom.GroupAction

### PR DESCRIPTION
**Pull request by hargoniX**
---

This file is done except for the failing simp in line 315. The lemma involves multiple coes so I suspect it might be related to the following: There are still two TODOs left in the file regarding two `norm_cast` tagged lemmas that now do not contain coercions anymore so I commented the attribute out, is that okay?

### CODE REVIEW

**Comment by LukasMias** [comment]
Placing `#lint` at the end of the file reveals that the `norm_cast` theorems that you had issues with are actually syntactic tautologies, so they can be entirely removed. I'll push that together with some other small changes in a moment!

File: Mathlib/Algebra/Hom/GroupAction.lean [hunk 1]
```diff
@@ -0,0 +1,527 @@
...
+#align distrib_mul_action_hom.id DistribMulActionHom.id
+
+@[simp]
+theorem id_apply (x : A) : DistribMulActionHom.id M x = x := by
+  rfl
+#align distrib_mul_action_hom.id_apply DistribMulActionHom.id_apply
+
+variable {M C}
+
+-- porting note: `simp` used to prove this, but now `change` is needed to push past the coercions
```
Comment (kbuzzard) [inline Mathlib/Algebra/Hom/GroupAction.lean:311]: If `simp` cannot prove `↑↑0 = 0` then this is an indication that something is wrong, right?

**Comment by ChrisHughes24** [comment]
> Placing `#lint` at the end of the file reveals that the `norm_cast` theorems that you had issues with are actually syntactic tautologies, so they can be entirely removed. I'll push that together with some other small changes in a moment!

These probably shouldn't be removed. Due to changes in the elaborator, a lot of `norm_cast` theorems end up being ported badly such that they are syntactic tautologies, because the coercions end up in the wrong place. Adding type annotations can fix the statements, and adding an `@[coe]` attribute to any functions used as coercions often fixes errors with `norm_cast`.

File: Mathlib/Algebra/Hom/GroupAction.lean (hunk 1 above)
Comment (ChrisHughes24) [reply Mathlib/Algebra/Hom/GroupAction.lean:311]: Yes, a bunch of `simp` lemmas were deleted for being syntactic tautologies when they should have been fixed to not be syntactic tautologies any more.

File: Mathlib/Algebra/Hom/GroupAction.lean [hunk 2]
```diff
@@ -0,0 +1,527 @@
...
+ not dangerous due to outParam -/
+
+export SMulHomClass (map_smul)
+
+attribute [simp] map_smul
+
+namespace MulActionHom
+
+instance : CoeFun (X →[M'] Y) fun _ => X → Y :=
+  ⟨MulActionHom.toFun⟩
```
Comment (eric-wieser) [inline Mathlib/Algebra/Hom/GroupAction.lean:105]: This should not exist

File: Mathlib/Algebra/Hom/GroupAction.lean [hunk 3]
```diff
@@ -0,0 +1,527 @@
...
+instance coe : Coe (A →+[M] B) (A →+ B) :=
+  ⟨toAddMonoidHom⟩
+#align distrib_mul_action_hom.has_coe DistribMulActionHom.coe
+
+instance coe' : Coe (A →+[M] B) (A →[M] B) :=
+  ⟨toMulActionHom⟩
+#align distrib_mul_action_hom.has_coe' DistribMulActionHom.coe'
+
+instance : CoeFun (A →+[M] B) fun _ => A → B :=
+  ⟨fun m => m.toFun⟩
```
Comment (eric-wieser) [inline Mathlib/Algebra/Hom/GroupAction.lean:224]: This also should not exist

File: Mathlib/Algebra/Hom/GroupAction.lean [hunk 4]
```diff
@@ -0,0 +1,527 @@
...
+#align mul_semiring_action_hom.has_coe MulSemiringActionHom.coe
+
+@[coe]
+instance coe' : Coe (R →+*[M] S) (R →+[M] S) :=
+  ⟨toDistribMulActionHom⟩
+#align mul_semiring_action_hom.has_coe' MulSemiringActionHom.coe'
+
+@[coe]
+instance : CoeFun (R →+*[M] S) fun _ => R → S :=
+  ⟨fun c => c.toFun⟩
```
Comment (eric-wieser) [inline Mathlib/Algebra/Hom/GroupAction.lean:428]: This one too

File: Mathlib/Algebra/Hom/GroupAction.lean [hunk 5]
```diff
@@ -0,0 +1,527 @@
...
+
+@[coe]
```
Comment (eric-wieser) [inline Mathlib/Algebra/Hom/GroupAction.lean:430]: This attribute looks suspect

File: Mathlib/Algebra/Hom/GroupAction.lean (hunk 1 above)
Comment (LukasMias) [reply Mathlib/Algebra/Hom/GroupAction.lean]: I reintroduced the lemmas that #lint reported to be syntactic tautologies. To fix them, I laid out what seemed like a reasonable strategy [on Zulip.](https://leanprover.zulipchat.com/#narrow/stream/287929-mathlib4/topic/Algebra.2EHom.2EGroupAction/near/321253822) which is essentially what seems to happen in Algebra.Hom.Group as well. I could still be way off with that fix, so anyone who considers themselves an expert on coercion is welcome to polish this.

The `↑↑0 = 0` issue is not fixed by this, but I believe PR https://github.com/leanprover-community/mathlib4/pull/1219 is consistent with the changes I have made and will fix it by reintroducing OneHom.toFun_eq_coe (I mention this earlier in the Zulip thread).

File: Mathlib/Algebra/Hom/GroupAction.lean [hunk 6]
```diff
@@ -0,0 +1,578 @@
...
+#align distrib_mul_action_hom_class DistribMulActionHomClass
+
+/- porting note: Removed a @[nolint dangerousInstance] for
+DistribMulActionHomClass.toAddMonoidHomClass not dangerous due to `outParam`s -/
+
+namespace DistribMulActionHom
+
+/- porting note: TODO decide whether the next two instances should be removed
+Coercion is already handled by all the HomClass constructions I believe -/
+-- instance coe : Coe (A →+[M] B) (A →+ B) :=
```
Comment (LukasMias) [inline Mathlib/Algebra/Hom/GroupAction.lean:231]:
```suggestion
-- instance coe : Coe (A →+[M] B) (A →+ B) :=
```

Do we still want coercion instances like these (with @[coe], if at all I guess)?

File: Mathlib/Algebra/Hom/GroupAction.lean [hunk 7]
```diff
@@ -0,0 +1,578 @@
...
+
+variable (R : Type _) [Semiring R] [MulSemiringAction M R]
+
+variable (R' : Type _) [Ring R'] [MulSemiringAction M R']
+
+variable (S : Type _) [Semiring S] [MulSemiringAction M S]
+
+variable (S' : Type _) [Ring S'] [MulSemiringAction M S']
+
+variable (T : Type _) [Semiring T] [MulSemiringAction M T]
```
Comment (jcommelin) [inline Mathlib/Algebra/Hom/GroupAction.lean:70]:
```suggestion
variable (M' : Type _)
variable (X : Type _) [SMul M' X]
variable (Y : Type _) [SMul M' Y]
variable (Z : Type _) [SMul M' Z]
variable (M : Type _) [Monoid M]
variable (A : Type _) [AddMonoid A] [DistribMulAction M A]
variable (A' : Type _) [AddGroup A'] [DistribMulAction M A']
variable (B : Type _) [AddMonoid B] [DistribMulAction M B]
variable (B' : Type _) [AddGroup B'] [DistribMulAction M B']
variable (C : Type _) [AddMonoid C] [DistribMulAction M C]
variable (R : Type _) [Semiring R] [MulSemiringAction M R]
variable (R' : Type _) [Ring R'] [MulSemiringAction M R']
variable (S : Type _) [Semiring S] [MulSemiringAction M S]
variable (S' : Type _) [Ring S'] [MulSemiringAction M S']
variable (T : Type _) [Semiring T] [MulSemiringAction M T]
```

File: Mathlib/Algebra/Hom/GroupAction.lean [hunk 8]
```diff
@@ -517,26 +576,3 @@ theorem comp_id (f : R →+*[M] S) : f.comp (MulSemiringActionHom.id M) = f :=
...
-theorem IsInvariantSubring.coe_subtype_hom : (IsInvariantSubring.subtypeHom M U : U → R') = coe :=
-  rfl
-#align is_invariant_subring.coe_subtype_hom IsInvariantSubring.coe_subtype_hom
-
-@[simp]
-theorem IsInvariantSubring.coe_subtype_hom' :
-    (IsInvariantSubring.subtypeHom M U : U →+* R') = U.Subtype :=
-  rfl
-#align is_invariant_subring.coe_subtype_hom' IsInvariantSubring.coe_subtype_hom'
-
```
Comment (jcommelin) [inline Mathlib/Algebra/Hom/GroupAction.lean]: Why is this not ported?

Comment (LukasMias) [reply Mathlib/Algebra/Hom/GroupAction.lean]: Apparently, this was moved to `algebra.group_ring_action.invariant` in mathlib3 last week, so it's not supposed to be here anymore. Well seen though!

File: Mathlib/Algebra/Hom/GroupAction.lean (hunk 6 above)
Comment (Vierkantor) [reply Mathlib/Algebra/Hom/GroupAction.lean:220]: I can foresee in case of trouble with `outParam`s we might want to re-enable these. In that case I'd prefer, if practical, an appropriate `simp` lemma rewriting it to the `HomClass` coercion, instead of a `@[coe]` annotation.

**Review by Vierkantor — COMMENTED** [review]
For what it's worth, I believe the issues discussed in this PR have indeed been appropriately resolved :)
